US05780642
4-(1-Amino-1-methylethyl)phenethylamine (A18, 2.132 g) was treated with 4-cyanophenylsulphonyl chloride (2.63 g) in dichloromethane (35 ml) and triethylamine (1.8 ml) to give N-{2-[4-(1-amino-1-methylethyl)phenyl]ethyl}-4-cyanobenzenesulphonamide, as an oil.

reactant | 4-(1-Amino-1-methylethyl)phenethylamine | NC(C)(C)C1=CC=C(CCN)C=C1 | C11H18N2
reactant | 4-cyanophenylsulphonyl chloride | 2.63 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
product | N-{2-[4-(1-amino-1-methylethyl)phenyl]ethyl}-4-cyanobenzenesulphonamide | NC(C)(C)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)C#N | C18H21N3O2S
